US07696223B2
b) 2-tert-Butyl-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester
A portion of the crude 4-bromomethyl-2-tert-butyl-thiazole-5-carboxylic acid ethyl ester (12.6 g, 41.0 mmol), N-(2,4-dimethoxy-benzyl)glycine ethyl ester (11.6 g, 41.0 mmol), and potassium carbonate (6.2 g, 45 mmol) in 100 ml of anhydrous DMF was stirred for 18 h. The mixture was partitioned into a biphasic water-ethyl acetate mixture and the isolated organic layer was then washed with brine, dried over anhydrous magnesium sulfate, concentrated to a residue, and purified by flash chromatography: eluting the desired product from silica gel with a gradient of 10-35% ethyl acetate in hexanes. 13 g of a yellow oil was isolated. MS (ESI+): 479.4 (M+1).

reactant | 4-bromomethyl-2-tert-butyl-thiazole-5-carboxylic acid ethyl ester | 41.0 mmol, 12.6 g | C(C)OC(=O)C1=C(N=C(S1)C(C)(C)C)CBr | C11H16BrNO2S
reactant | N-(2,4-dimethoxy-benzyl)glycine ethyl ester | 41.0 mmol, 11.6 g | C(C)OC(CNCC1=C(C=C(C=C1)OC)OC)=O | C13H19NO4
reactant | potassium carbonate | 45 mmol, 6.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-tert-Butyl-4-{[(2,4-dimethoxy-benzyl)-ethoxycarbonylmethyl-amino]-methyl}-thiazole-5-carboxylic acid ethyl ester | 13 g | C(C)OC(=O)C1=C(N=C(S1)C(C)(C)C)CN(CC(=O)OCC)CC1=C(C=C(C=C1)OC)OC | C24H34N2O6S
